US07247734B2
Synthesis of 6-Chloro-7-hydroxy-3-(3-methoxy-phenyl)-chromen-4-one
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (1.74 g, 12 mmol), 3-methoxyphenylacetic acid (2.0 g, 12 mmol), BF3Et2O (5 ml), PCl5 (3.75 g, 18 mmol), DMF (15 ml and 10 ml). 6-Chloro-7-hydroxy-3-(3-methoxy-phenyl)-chromen-4-one precipitated out as a white solid (1.6 g, 44%).

reactant | 4-Chlororesorcinol | 12 mmol, 1.74 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 3-methoxyphenylacetic acid | 12 mmol, 2.0 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | PCl5 | 18 mmol, 3.75 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-7-hydroxy-3-(3-methoxy-phenyl)-chromen-4-one | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=CC=C1)OC)=O | C16H11ClO4
